US07989438B2
Step 5: (7S)-14-cyclohexyl-7-[2-(methylamino)ethoxy]-N-{[methyl(2-oxoethyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide
A solution of (7S)-14-cyclohexyl-N-{[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}-7-[2-(methylamino)ethoxy]-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide (0.06 M) in DCM was treated with an excess of TFA and H2O (>50 eq). The mixture was stirred at 40° C. for 30 min. All the volatiles were concentrated in vacuo to give the title compound, which was taken on without further purification. (ES+) m/z 583 (M+H)+.

reactant | (7S)-14-cyclohexyl-N-{[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}-7-[2-(methylamino)ethoxy]-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | 0.06 M | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@@H](COC3=C(C21)C=CC=C3)OCCNC)C(=O)NS(=O)(=O)N(C)CC(OC)OC | C32H44N4O7S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H2O | >50 eq | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (7S)-14-cyclohexyl-7-[2-(methylamino)ethoxy]-N-{[methyl(2-oxoethyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@@H](COC3=C(C21)C=CC=C3)OCCNC)C(=O)NS(=O)(=O)N(CC=O)C | C30H38N4O6S
